US06812225B2
8-Bromo-6-fluoro-4-methoxy-quinoline-2-carboxylic acid methyl ester
Alternatively, into a 100 mL 3 neck round bottom flask equipped with a reflux condenser, nitrogen inlet and magnetic stirrer is placed 350 mg (1.17 mmol, 1.0 equiv.) of 8-Bromo-6-fluoro-4-oxo-1,4-dihydro-quinoline-2-carboxylic acid methyl ester and 242 mg (1.75 mmol, 1.5 equiv.) of K2CO3. This material is suspended in 20 mL of DMSO then heated to 70° C. for 1 hr. The anion formation of the anion is apparent when the mixture becomes cloudy. The mixture is allowed to cool to 35° C. then 331 mg, 145 μL (2.33 mmol, 2.0 equiv.) of methyl iodide are added and stirring is continued for 2 hr. At the end of this time it is determined if the reaction is complete by LC/MS. Upon completion the mixture is poured into 200 mL of water and the solids which form are collected by filtration and washed with water to give 340 mg (93%) of the O-methylated product after drying.

reactant | 8-Bromo-6-fluoro-4-oxo-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 1.17 mmol, 350 mg, 1.0 equiv. | COC(=O)C=1NC2=C(C=C(C=C2C(C1)=O)F)Br | C11H7BrFNO3
reactant | K2CO3 | 1.75 mmol, 242 mg, 1.5 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 2.33 mmol, 145 μL, 331 mg, 2.0 equiv. | CI | CH3I
reactant | water | 200 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 8-Bromo-6-fluoro-4-methoxy-quinoline-2-carboxylic acid methyl ester | 340 mg, 93% | COC(=O)C1=NC2=C(C=C(C=C2C(=C1)OC)F)Br | C12H9BrFNO3
